US07632840B2
4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-[(2S)-2-hydroxypropanoyl]piperidine-4-carboxamide
DIPEA (0.120 g, 0.92 mmol) and L-lactic acid (0.083 g, 0.92 mmol) were added to a stirred solution of 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxamide hydrochloride (0.10 g, 0.184 mmol) in dimethylformamide at room temperature. O-(1H-Benzotriazol-1-yl)-N,N,N′N′-tetramethyluronium tetrafluoroborate (0.295 g, 0.92 mmol) was added and the reaction mixture was stirred for 30 minutes, concentrated and purified by preparative LCMS (standard acidic system) to give the title product (0.044 g, 43.4%) as a white solid; 1H NMR Spectrum: (DMSO-d6) 1.29 (d, 3H), 1.91 (m, 2H), 2.06 (m, 2H), 2.20 (m, 3H), 3.34 (m, 4H), 3.65 (s, 2H), 3.94 (s, 3H), 4.45 (m, 1H), 4.83 (m, 1H), 7.19 (s, 1H), 7.29 (m, 3H), 7.49-7.57 (m, 2H), 8.34 (s, 1H), 8.42 (s, 1H), 9.73 (s, 1H); Mass Spectrum: (M+H)+ 545.

reactant | DIPEA | 0.92 mmol, 0.120 g | CCN(C(C)C)C(C)C | C8H19N
reactant | L-lactic acid | 0.92 mmol, 0.083 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxamide hydrochloride | 0.184 mmol, 0.10 g | Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCNCC1)C(=O)N)C)OC)F
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-[(2S)-2-hydroxypropanoyl]piperidine-4-carboxamide | 0.044 g, 43.4% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCN(CC1)C([C@H](C)O)=O)C(=O)N)C)OC)F | C26H30ClFN6O4
